US09085576B2
A microwave vial was charged with methyl 5-methoxypicolinate (9.700 g, 58.0 mmol, synthesized according to Tetrahedron Letters 2011, 52, 122-124) and sodium hydroxide solution (10 N; 58.0 ml, 580 mmol). The reaction mixture was stirred and heated in a CEM Voyager microwave (Large-Scale Unit) at 120° C. for 11 min (150 watts, Powermax feature on). Subsequently, the reaction mixture was allowed to stir for 10 minutes at ambient temperature. The precipitate was collected by filtration and the solid was rinsed with hexanes. The solid was dried to obtain sodium 5-methoxypicolinate (9.83 g, 56.1 mmol, 97% yield) as a light-yellow solid. MS m/z=175.9 [M+H]+. Calculated for C7H6NNaO3: 175. 1H NMR (400 MHz, MeOH) d ppm 8.23 (d, J=2.93 Hz, 1H) 8.06 (d, J=8.61 Hz, 1H) 7.39 (dd, J=8.80, 2.93 Hz, 1H) 3.91 (s, 3H)

reactant | methyl 5-methoxypicolinate | 58.0 mmol, 9.700 g | COC=1C=CC(=NC1)C(=O)OC | C8H9NO3
reactant | sodium hydroxide | 580 mmol, 10 N, 58.0 ml | [OH-].[Na+]
product | sodium 5-methoxypicolinate | 56.1 mmol, 9.83 g, 97% yield | COC=1C=CC(=NC1)C(=O)[O-].[Na+] | InChI=1S/C7H7NO3.Na/c1-11-5-2-3-6(7(9)10)8-4-5;/h2-4H,1H3,(H,9,10);/q;+1/p-1
